US07723369B2
5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (119 mg, 0.2 mmol) was treated as described in general procedure R using 4-phenylpiperidine (162 mg, 1 mmol) to give 5-(4-{4-(2,4-dichloro-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.2 mmol, 119 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 4-phenylpiperidine | 1 mmol, 162 mg | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
product | 5-(4-{4-(2,4-dichloro-phenyl)-2-[4-(4-phenyl-piperidin-1-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C35H31Cl2N5O3S
